US06509334B1
6-(6-Amino-pyridin-3-yl)-4,4-dimethyl-1,4-dihydro-benzo[d][1,3]oxazine-2-one
Prepared according to procedure B from 2-amino-5-bromopyridine and (1,4-dihydro-4,4-dimethyl-2-oxo-2H-3,1-benzoxazin-6-yl)boronic acid. White crystals, mp 257-259° C. 1H-NMR (DMSO-d6) δ10.20 (s, 1H), 8.22 (d,1H, J=2.38 Hz) 7.69,7.66 (dd, 1H, J=2.5, 2.5 Hz), 7.42 (m,2H), 6.89 (d,1H, J=8.8 Hz), 6.49 (d, 1H, J=8.64 Hz), 6.02 (s,2H), 1.64 (s,6H); MS m/z 269 M+. Anal. Calcd. For C15H15N3O2.17H2O: C, 66.15, H, 5.68, N, 15.43. Found C, 66.10, H, 5.81, N, 15.02.

reactant | 2-amino-5-bromopyridine | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | (1,4-dihydro-4,4-dimethyl-2-oxo-2H-3,1-benzoxazin-6-yl)boronic acid | CC1(OC(NC2=C1C=C(C=C2)B(O)O)=O)C | C10H12BNO4
product | 6-(6-Amino-pyridin-3-yl)-4,4-dimethyl-1,4-dihydro-benzo[d][1,3]oxazine-2-one | NC1=CC=C(C=N1)C1=CC2=C(NC(OC2(C)C)=O)C=C1 | C15H15N3O2
